US08669229B2
Tolvaptan (10.0 g, 22.3 mmol) was dispersed in dichloromethane (100 ml). Pyridine (2.7 ml) was added thereto, and the mixture was stirred. 4-Chlorobutyric acid chloride (3.74 ml) was gradually added to the obtained mixture, and the mixture was stirred at room temperature over night. The reactant was then poured into water, and the mixture was extracted with dichloromethane, washed with a sodium hydrogen sulfate aqueous solution, dried over magnesium sulfate. After filtration and concentration under reduced pressure, the resulted residue was crystallized with diethyl ether. The resulted crystals were collected by filtration, and dried to obtain 10.7 g of 7-chloro-1-[2-methyl-4-(2-methylbenzamido)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 4-chlorobutyrate as white powder.

reactant | Tolvaptan | 22.3 mmol, 10.0 g | CC=1C=CC=CC1C(=O)NC=2C=CC(=C(C2)C)C(=O)N3CCCC(C4=C3C=CC(=C4)Cl)O | C26H25ClN2O3
reactant | Pyridine | 2.7 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-Chlorobutyric acid chloride | 3.74 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-chloro-1-[2-methyl-4-(2-methylbenzamido)benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 4-chlorobutyrate | 10.7 g | ClCCCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C30H30Cl2N2O4
